### PR TITLE
feat(QuantumMechanics): add Canonical commutation on the Schwartz submodule

### PR DESCRIPTION
**Pull request by or4nge19**
This file transports the position and momentum operators on Schwartz maps to partial linear maps on `SpaceDHilbertSpace d`, with common domain `schwartzSubmodule d`. It then records the same-coordinate canonical commutation relation and the corresponding uncertainty lower bound.

This file provides the concrete position/momentum data needed to apply the abstract uncertainty inequality, which is proved in `LinearPMap` form in `Physlib.QuantumMechanics.DDimensions.Operators.Uncertainty

PR 3 of 3 exctracted from a larger development at Axiomatic-AI

Depends on #1095

### CODE REVIEW

**Comment by or4nge19** [comment]
t-quantum-mechanics

File: Physlib/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 1]
```diff
@@ -384,6 +388,57 @@ end
...
+### B.0. Schwartz-domain position
+-/
+
+/-- The position operator as a `LinearPMap` with domain the Schwartz submodule.
+
+This is the pullback of `positionCLM` to `SpaceDHilbertSpace d`. It is not the same as
+`positionOperator` (`𝓧`), which acts by multiplication on a larger domain. -/
+def schwartzPositionOperator : SpaceDHilbertSpace d →ₗ.[ℂ] SpaceDHilbertSpace d where
+  domain := schwartzSubmodule d
+  toFun := schwartzIncl.toLinearMap ∘ₗ (𝐱 i).toLinearMap ∘ₗ schwartzEquiv.symm.toLinearMap
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]:
```suggestion
def schwartzPositionOperator : SpaceDHilbertSpace d →ₗ.[ℂ] SpaceDHilbertSpace d where
  (positionOperator i).domRestrict (schwartzSubmodule d)
```

File: Physlib/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 2]
```diff
@@ -384,6 +388,57 @@ end
...
 
+/-!
+### B.0. Schwartz-domain position
+-/
+
+/-- The position operator as a `LinearPMap` with domain the Schwartz submodule.
+
+This is the pullback of `positionCLM` to `SpaceDHilbertSpace d`. It is not the same as
+`positionOperator` (`𝓧`), which acts by multiplication on a larger domain. -/
+def schwartzPositionOperator : SpaceDHilbertSpace d →ₗ.[ℂ] SpaceDHilbertSpace d where
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]: I think this definition should make use of `LinearPMap.domRestrict` so that all incarnations of the position operator on different subdomains are tied together. This automatically gives you `schwartzPositionOperator i ≤ positionOperator i` using `LinearPMap.domRestrict_le` and the ability to use general results in `Unbounded.lean` (e.g. see below). See also `LinearPMap.domRestrict_domain` and `LinearPMap.domRestrict_apply` which may preclude the need for `schwartzPositionOperator_domain`, etc. from the beginning.

File: Physlib/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 3]
```diff
@@ -384,6 +388,57 @@ end
...
+  obtain ⟨g, rfl⟩ := schwartzEquiv.surjective φ
+  simp only [schwartzPositionOperator_apply, ← Submodule.coe_inner, schwartzEquiv_inner,
+    schwartzEquiv.symm_apply_apply, positionCLM_apply]
+  open MeasureTheory in
+  refine integral_congr_ae ?_
+  filter_upwards with x
+  have hi : starRingEnd ℂ ((↑(x i) : ℂ) * f x) = (↑(x i) : ℂ) * starRingEnd ℂ (f x) := by
+    rw [map_mul, Complex.conj_ofReal]
+  rw [hi]
+  ring
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]:
```suggestion
lemma schwartzPositionOperator_isSymmetric : (positionSchwartzOperator i).IsSymmetric :=
  (IsSelfAdjoint.isSymmetric (positionOperator_isSelfAdjoint i)).of_le domRestrict_le
```

File: Physlib/QuantumMechanics/DDimensions/Operators/Position.lean [hunk 4]
```diff
@@ -384,6 +388,57 @@ end
...
+lemma schwartzPositionOperator_range (ψ : schwartzSubmodule d) :
+    schwartzPositionOperator i ψ ∈ schwartzSubmodule d := by
+  simp [schwartzPositionOperator_apply]
+
+lemma schwartzPositionOperator_hasDenseDomain :
+    (schwartzPositionOperator i).HasDenseDomain :=
+  SchwartzSubmodule.dense d
+
+lemma schwartzPositionOperator_isSymmetric :
+    (schwartzPositionOperator i).IsSymmetric := by
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]: e.g. using `domRestrict` definition and using `IsSelfAdjoint.isSymmetric` and `IsSymmetric.of_le` from `Unbounded.lean`:

File: Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean [hunk 5]
```diff
@@ -0,0 +1,163 @@
...
+
+variable {d : ℕ}
+
+/-!
+
+## A. Schwartz canonical commutation
+
+-/
+
+/-- Schwartz maps satisfy the coordinate canonical commutation relation. -/
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean]: This is a duplicate of `position_commutation_momentum` in `Operators/Commutation.lean`.
Note that `⁅A, B⁆ ψ = A (B ψ) - B (A ψ)` is true by definition.

File: Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean [hunk 6]
```diff
@@ -0,0 +1,163 @@
...
+      (I * ℏ) • δ[i,j] • schwartzEquiv.symm ψ := by
+  suffices (⁅𝐱 i, 𝐩 j⁆) (schwartzEquiv.symm ψ) = (I * ℏ) • δ[i,j] • schwartzEquiv.symm ψ by
+    simpa [Bracket.bracket]
+  simpa using congrArg (fun F : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) => F (schwartzEquiv.symm ψ))
+    (position_commutation_momentum i j)
+
+/-- The canonical commutation relation for `schwartzPositionOperator` and `momentumOperator` on the
+Schwartz domain. -/
+lemma schwartzPositionOperator_commutator_momentumOperator (i j : Fin d)
+    (ψ : schwartzSubmodule d) :
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean]: Can this be phrased in terms of the Lie bracket and without a test function (i.e. equality of `LinearPMap`s) similar to how is done for Schwartz maps?

File: Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean [hunk 7]
```diff
@@ -0,0 +1,163 @@
...
+-/
+
+/-- The same-coordinate position and momentum variances satisfy the squared Heisenberg lower bound
+on normalized Schwartz-domain states. -/
+lemma position_momentum_same_coordinate_uncertainty_squared
+    (i : Fin d) (ψ : schwartzSubmodule d) (hψ_norm : ‖(ψ : SpaceDHilbertSpace d)‖ = 1) :
+    variance (schwartzPositionOperator i) ψ *
+      variance (momentumOperator i) ⟨ψ, ψ.2⟩ ≥ (ℏ / 2) ^ 2 := by
+  suffices (ℏ / 2) ^ 2 ≤ variance (schwartzPositionOperator i) ψ *
+      variance (momentumOperator i) ⟨ψ, ψ.2⟩ by exact this
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean]:
```suggestion
```

File: Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean [hunk 8]
```diff
@@ -0,0 +1,163 @@
...
+
+-/
+
+/-- The same-coordinate position and momentum variances satisfy the squared Heisenberg lower bound
+on normalized Schwartz-domain states. -/
+lemma position_momentum_same_coordinate_uncertainty_squared
+    (i : Fin d) (ψ : schwartzSubmodule d) (hψ_norm : ‖(ψ : SpaceDHilbertSpace d)‖ = 1) :
+    variance (schwartzPositionOperator i) ψ *
+      variance (momentumOperator i) ⟨ψ, ψ.2⟩ ≥ (ℏ / 2) ^ 2 := by
+  suffices (ℏ / 2) ^ 2 ≤ variance (schwartzPositionOperator i) ψ *
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean]: These lines do nothing: `a ≥ b` is definitionally equivalent to `b ≤ a`. Usually one should avoid `\ge` entirely; here just change the statement of the lemma to use `\le`.

File: Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean [hunk 9]
```diff
@@ -0,0 +1,163 @@
...
+  simpa only [abs_of_nonneg ℏ_nonneg] using hbound
+
+/-- The same-coordinate Robertson–Schrödinger lower bound on normalized Schwartz-domain states. -/
+lemma position_momentum_same_coordinate_uncertainty_squared_with_covariance
+    (i : Fin d) (ψ : schwartzSubmodule d) (hψ_norm : ‖(ψ : SpaceDHilbertSpace d)‖ = 1) :
+    variance (schwartzPositionOperator i) ψ *
+      variance (momentumOperator i) ⟨ψ, ψ.2⟩ ≥
+        (stateCovariance (schwartzPositionOperator i) (momentumOperator i) ψ ψ.2) ^ 2 +
+          (ℏ / 2) ^ 2 := by
+  suffices (stateCovariance (schwartzPositionOperator i) (momentumOperator i) ψ ψ.2) ^ 2 +
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean]: Same

File: Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean [hunk 10]
```diff
@@ -0,0 +1,163 @@
...
+        variance (momentumOperator i) ⟨ψ, ψ.2⟩ by exact this
+  exact state_uncertainty_squared_with_covariance_of_raw_commutator (schwartzPositionOperator i)
+    (momentumOperator i) (schwartzPositionOperator_isSymmetric i)
+    (momentumOperator_isSymmetric i) ψ ψ.2 hψ_norm (schwartzPositionOperator_range i ψ)
+    (momentumOperator_range i ψ) (c := ℏ)
+    (inner_schwartzPositionOperator_commutator_momentumOperator_same i ψ hψ_norm)
+
+/-- The same-coordinate position and momentum standard deviations satisfy the Heisenberg lower
+bound on normalized Schwartz-domain states. -/
+lemma position_momentum_same_coordinate_uncertainty
```
Comment (gloges) [inline Physlib/QuantumMechanics/DDimensions/Operators/CanonicalCommutation.lean:177]: Same

**Review by gloges — COMMENTED** [review]
I've made some comments/suggestions on the commutators and Schwartz position operators. I would strongly suggest we change the definition to use `LinearPMap.domRestrict` to keep all "morally the same" operators tied to `positionOperator` (which by defn has the largest possible domain - all "position operators" can be gotten from it by restricting the domain).

File: Physlib/QuantumMechanics/DDimensions/Operators/Position.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]: How is this actually different from `schwartzPositionOperator`?

Comment (jstoobysmith) [reply Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]: Sorry, just realised it is in the doc-string.

Comment (jstoobysmith) [reply Physlib/QuantumMechanics/DDimensions/Operators/Position.lean]: Let me rephrase: It seems like (as @gloges is suggesting) that `schwartzPositionOperator` is just `(positionOperator i).domRestrict (schwartzSubmodule d)`. It seems like it would be nice if we could proof general results (maybe they already exist), which hold for any `domRestrict`, rather then making a new definition for each time we want to restrict a domain.

**Comment by jstoobysmith** [comment]
@or4nge19 Adding `awaiting-author` to this PR because of the merge conflict. Have slightly lost the current status of this. BTW maybe worth considering putting this stuff in PhyslibAlpha initially
